US08710043B2
To a 500 mL round bottom flask containing (S)-tert-butyl ((3-(prop-1-yn-1-yl)pyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)carbamate (400 mg, 1.025 mmol) was added DCM (8 mL) and the mixture was stirred at 23° C. for 2 min. At this time, hydrogen chloride (4N in 1,4-dioxane) (37.4 mg, 1.025 mmol) (4 mL) was added via syringe. The reaction was stirred for 3 h then the volatiles were removed via rotoryevaporator. The solid was placed on high vacuum overnight to give (S)-(3-(prop-1-yn-1-yl)pyridin-2-yl)(4-(trifluoromethyl)phenyl)-methanamine hydrochloride as a white solid.

reactant | (S)-tert-butyl ((3-(prop-1-yn-1-yl)pyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)carbamate | 1.025 mmol, 400 mg | C(#CC)C=1C(=NC=CC1)[C@H](C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C21H21F3N2O2
reactant | hydrogen chloride | 1.025 mmol, 4N, 4 mL, 37.4 mg | Cl | ClH
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | (S)-(3-(prop-1-yn-1-yl)pyridin-2-yl)(4-(trifluoromethyl)phenyl)-methanamine hydrochloride | Cl.C(#CC)C=1C(=NC=CC1)[C@@H](N)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C16H13F3N2.ClH/c1-2-4-12-5-3-10-21-15(12)14(20)11-6-8-13(9-7-11)16(17,18)19;/h3,5-10,14H,20H2,1H3;1H/t14-;/m0./s1
